US06995171B2
2-{2-[7-(1-Methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-thieno[3,2-b]pyridin-2-yl]-thiazol-4-yl}-propan-2-ol
The title compound (11 mg, 8%) was prepared from 2-[2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-thiazol-4-yl]-propan-2-ol and 1-methyl-5-trifluoromethyl-1H-pyrazol-3-ol by a procedure analogous to Example 16. C18H15F3N4O2S2: APCI m/z 441.3 (pos.); 1H NMR (CD3OD): δ 8.53 (d, 1H, J=5.6 Hz), 7.91 (s, 1H), 7.48 (s, 1H), 7.07 (d, 1H, J=5.6 Hz), 6.68 (s, 1H), 3.98 (s, 3H), 1.61 (s, 6H) ppm.

reactant | 2-[2-(7-chloro-thieno[3,2-b]pyridin-2-yl)-thiazol-4-yl]-propan-2-ol | ClC1=C2C(=NC=C1)C=C(S2)C=2SC=C(N2)C(C)(C)O | C13H11ClN2OS2
reactant | 1-methyl-5-trifluoromethyl-1H-pyrazol-3-ol | CN1N=C(C=C1C(F)(F)F)O | C5H5F3N2O
product | 2-{2-[7-(1-Methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-thieno[3,2-b]pyridin-2-yl]-thiazol-4-yl}-propan-2-ol | 11 mg, 8% | CN1N=C(C=C1C(F)(F)F)OC1=C2C(=NC=C1)C=C(S2)C=2SC=C(N2)C(C)(C)O | C18H15F3N4O2S2
